US04680300
700 Milligrams (mg) of 1-amino-8-(1-naphthyloxy)octane and 505 mg of dicyclohexylcarbodiimide were mixed well and heated to 120° C. for 1 hour. The crude product was chromatographically separated on a silica gel column eluting with a mobile phase of 25 parts 2-propanol to 1 part water to 1 part acetic acid affording 1,2-dicyclohexyl-3-[8-(1-naphthyloxy)octyl]guanidine as a gum.

reactant | 1-amino-8-(1-naphthyloxy)octane | NCCCCCCCCOC1=CC=CC2=CC=CC=C12 | C18H25NO
reactant | dicyclohexylcarbodiimide | 505 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 1,2-dicyclohexyl-3-[8-(1-naphthyloxy)octyl]guanidine | C1(CCCCC1)NC(=NC1CCCCC1)NCCCCCCCCOC1=CC=CC2=CC=CC=C12 | C31H47N3O
